US07772268B2
6-Fluoro-1-(thiomorpholine-4-carbonyl)-1H-indazol-3-yl thiomorpholine-4-carboxylate
In analogy to example 1, 200 mg (1.315 mmol) of 6-fluoro-1H-indazol-3-ol were reacted with 261.4 mg (1.578 mmol) of thiomorpholine-4-carbonyl chloride. Yield: 39 mg (7%), M+H+: 411.17.

reactant | 6-fluoro-1H-indazol-3-ol | 1.315 mmol, 200 mg | FC1=CC=C2C(=NNC2=C1)O | C7H5FN2O
reactant | thiomorpholine-4-carbonyl chloride | 1.578 mmol, 261.4 mg | N1(CCSCC1)C(=O)Cl | C5H8ClNOS
product | 6-Fluoro-1-(thiomorpholine-4-carbonyl)-1H-indazol-3-yl thiomorpholine-4-carboxylate | N1(CCSCC1)C(=O)OC1=NN(C2=CC(=CC=C12)F)C(=O)N1CCSCC1 | C17H19FN4O3S2
